US04523012
Under stirring there were added 0.063 gram (1.58 mmoles) of sodium hydroxide in 0.32 ml water to 1.00 gram (10.9 mmoles) of mercaptoacetic acid and 1.31 grams (10.9 mmoles) of 2-chloroacrylic acid methyl ester. Stirring was carried out subsequently for 24 hours at 10° C. After acidification of the reaction mixture with dilute hydrochloric acid the working up was carried out by extracting three times with diethyl ether, drying the combined ether phases with water free sodium sulfate and removal of the ether. There were obtained 2.00 grams (86% of theory) of 2-chloro-3-carboxymethylmercapto-propionic acid methyl ester as a colorless viscous oil.

reactant | sodium hydroxide | 1.58 mmoles, 0.063 gram | [OH-].[Na+]
reactant | mercaptoacetic acid | 10.9 mmoles, 1.00 gram | SCC(=O)O | C2H4O2S
reactant | 2-chloroacrylic acid methyl ester | 10.9 mmoles, 1.31 grams | COC(C(=C)Cl)=O | C4H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 0.32 ml | O | H2O
product | 2-chloro-3-carboxymethylmercapto-propionic acid methyl ester | 2.00 grams, 86% | COC(C(CSCC(=O)O)Cl)=O | C6H9ClO4S
